US07399759B2
N,N-Dimethyl-N′-[6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]urea
N′-(6-Cyano-2-pyridyl)-N,N-dimethylurea (0.72 g, 3.8 mmol) and methyl thiosalicylate (0.89 g, 5.2 mmol) were dissolved in toluene (4 ml), and triethylamine (2.0 ml, 14.3 mmol) was added thereto. The mixture was refluxed for 8 hrs. After cooling, the precipitates were collected and recrystallized from diisopropyl ether-methanol to give the titled compound (0.62 g, 50%) as white crystals.

reactant | N′-(6-Cyano-2-pyridyl)-N,N-dimethylurea | 3.8 mmol, 0.72 g | C(#N)C1=CC=CC(=N1)NC(N(C)C)=O | C9H10N4O
reactant | methyl thiosalicylate | 5.2 mmol, 0.89 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | triethylamine | 14.3 mmol, 2.0 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
product | N,N-Dimethyl-N′-[6-(4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]urea | 0.62 g, 50% | CN(C(=O)NC1=NC(=CC=C1)C=1SC2=C(C(N1)=O)C=CC=C2)C | C16H14N4O2S
